US08980642B2
2 g cyanoacetic acid (1 eq., 23.5 mmol), 2.97 g chlorobenzaldehyde (0.9 eq., 21.1 mmol) and 300 mg ammonium acetate (15% (m/m) based on the acid) are heated in 30 ml toluene using a water separator with reflux. After completion of the water separation (about 3 hours), the mixture is cooled to room temperature, in the course of which the product usually precipitates in crystalline form. After filtration, the crude product is washed with sufficient water. If no product precipitates, the mixture is concentrated and the remaining solids are washed with sufficient water. The crude product is repeatedly recrystallised from a mixture of alcohol (methanol) and water. Further purification takes place by means of ion exchange (strong cation exchanger), with 50% acetonitrile being used as the solvent. The eluate is concentrated at room temperature, in the course of which the purified product precipitates in crystalline form. After filtering and drying in a vacuum, 3.35 g (78% of the theoretical yield) α-cyano-4-chloro cinnamic acid are obtained.

reactant | cyanoacetic acid | 23.5 mmol, 2 g, 1 eq. | C(#N)CC(=O)O | C3H3NO2
reactant | chlorobenzaldehyde | 21.1 mmol, 2.97 g, 0.9 eq. | ClC1=C(C=O)C=CC=C1 | C7H5ClO
reactant | ammonium acetate | 300 mg | C(C)(=O)[O-].[NH4+]
reactant | water | O | H2O
solvent | toluene | 30 ml | C1(=CC=CC=C1)C | C7H8
product | α-cyano-4-chloro cinnamic acid | C(#N)C(C(=O)O)=CC1=CC=C(C=C1)Cl | C10H6ClNO2
